US08217028B2
To a mixture of 4-fluoro-3-formyl-1H-indole-7-carbonitrile (D42) (9.0 g) in CH3CN (120 mL) was added ethyl (triphenylphosphoranyliden)acetate (25.0 g). The reaction was heated at reflux overnight. After the mixture was filtered, the filtrate was concentrated and purified by preparative TLC to afford ethyl (2E)-3-(7-cyano-4-fluoro-1H-indol-3-yl)-2-propenoate (D43) (9.2 g) as a yellow solid.

reactant | 4-fluoro-3-formyl-1H-indole-7-carbonitrile | 9.0 g | FC1=C2C(=CNC2=C(C=C1)C#N)C=O | C10H5FN2O
reactant | ethyl (triphenylphosphoranyliden)acetate | 25.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC | C22H21O2P
solvent | CH3CN | 120 mL | CC#N | C2H3N
product | ethyl (2E)-3-(7-cyano-4-fluoro-1H-indol-3-yl)-2-propenoate | 9.2 g | C(#N)C=1C=CC(=C2C(=CNC12)/C=C/C(=O)OCC)F | C14H11FN2O2
